US08791255B2
The product is prepared according to the procedure described in example 5, using 340 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 212 mg of 8-amino-1,2,3,4-tetrahydroquinoline and 330 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 210 μl of pyridine and 5.0 ml of N,N-dimethylformamide. 243 mg of 2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]-N-(1,2,3,4-tetrahydroquinolin-8-yl)acetamide are obtained in the form of a beige powder, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 340 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 8-amino-1,2,3,4-tetrahydroquinoline | 212 mg | NC=1C=CC=C2CCCNC12 | C9H12N2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 330 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 210 μl | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | 2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]-N-(1,2,3,4-tetrahydroquinolin-8-yl)acetamide | 243 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)NC=1C=CC=C2CCCNC12 | C19H23N5O3
